*$
* OPAx182
*****************************************************************************
* (C) Copyright 2026 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: OPAx182
* Date: 15JAN2026
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS936C - DECEMBER 2019 - REVISED JANUARY 2021
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.2
*
*****************************************************************************
*
* Updates:
*
* Final 1.2
* 1. Fixed ZO(f) to match the design simulation as well as validation plot
* 2. All DC clamps updated since it Zo block change affected Aol blocks.
*
* Final 1.1
* 1. Modified the capacitor(C14) value from 1F to 10uF in GND Float-IQ block  
*    to resolve the convergence issue in single and asymmetric supply test.
* 2. Updated PSRRp, PSRRn and CMRR curve to match the datasheet.
* 3. Updated the model name from OPA182 to OPAx182
* 4. Updated Overload recovery time and quiescent current as per the datasheet.
* 5. Updated Zo curve to match closer to datasheet.
*
* Final 1.0
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
*    a. OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
*    b. UNITY GAIN BANDWIDTH (GBW)
*    c. INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
*    d. POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
*    e. DIFFERENTIAL INPUT IMPEDANCE (Zid)
*    f. COMMON-MODE INPUT IMPEDANCE (Zic)
*    g. OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
*    h. OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
*    i. INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
*    j. INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
*    k. OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
*    l. SHORT-CIRCUIT OUTPUT CURRENT (Isc)
*    m. QUIESCENT CURRENT (Iq)
*    n. SETTLING TIME VS. CAPACITIVE LOAD (ts)
*    o. SLEW RATE (SR)
*    p. SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
*    q. LARGE SIGNAL RESPONSE
*    r. OVERLOAD RECOVERY TIME (tor)
*    s. INPUT BIAS CURRENT (Ib)
*    t. INPUT OFFSET CURRENT (Ios)
*    u. INPUT OFFSET VOLTAGE (Vos)
*    v. INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos Drift)
*    w. INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
*    x. INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
*    y. INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
*
************************************************************************************************************************
.SUBCKT OPAX182 IN+ IN- VCC VEE OUT
************************************************************************************************************************
* Models
.MODEL R_NOISELESS RES (T_ABS=-273)
****************************************
* Components
C_C_COM0 ESDP MID 2.3P 
C_C_COM1 MID ESDN 2.3P 
C_C_DIFF ESDN ESDP 3.7P 
C_C1 N3294772 N3294776 3.789N 
C_C2 N3294812 N2991579 61.21N 
C_C4 N2991657 MID 1F 
C_C5 CLAMP MID 9U 
C_C10 N3294626 N3294630 5.3N 
C_C13 0 N2992397 1F 
C_C14 0 N2992375 1U 
C_C15 0 N2992413 1F 
C_C16 N2991741 MID 1F 
C_C17 N2991765 MID 1F 
C_C18 N2991811 MID 1F 
C_C19 N2991831 MID 1F 
C_C20 N2991907 MID 1F 
C_C21 N2991925 MID 1F 
C_C22 MID N2991969 1F 
C_C23 N2992033 MID 1F 
C_C24 N2992029 MID 1F 
C_C25 N2992093 MID 1P 
C_C26 N2992099 MID 1P 
C_C27 SW_OL MID 100P 
C_C29 VIMON MID 1P 
C_C30 VOUT_S MID 1P 
C_C59 N3117073 MID 114.5P 
C_C66 N3805330 MID 260F 
C_C67 N3294514 MID 7.5F 
C_C68 N3805288 N3294512 26.53P 
C_C70 VCLP MID 1P 
C_C71 N3817523 N3817533 27.7P 
C_C72 N3822166 MID 400P 
C_C73 N3898596 MID 29N 
C_C74 N3827249 N3828449 1.273P 
C_C75 N3837270 N3837278 72.34P 
C_C77 N3850714 N3850724 318.3P 
C_C78 N3850734 N2991581 13.6N 
E_E1 MID 0 N2992375 0 1
E_E3 N2992163 MID OUT MID 1
E_E4 N3294618 MID CL_CLAMP MID 1
G_G1 N3294772 MID ESDP MID -18.96M
G_G2 N2991563 N2991555 N2991553 MID -1M
G_G3 N3294812 MID VEE_B MID -3.47
G_G4 N3850714 MID VCC_B MID -6.515M
G_G5 N2991587 N2991583 N2991581 N2991579 -1M
G_G6 VSENSE MID CLAMP MID -1M
G_G12 CLAW_CLAMP MID N3294514 MID -1M
G_G13 CL_CLAMP MID CLAW_CLAMP MID -1M
G_G16 N3201092 MID N3294630 MID -58.5
G_G18 VCC_B 0 VCC 0 -1
G_G19 VEE_B 0 VEE 0 -1
G_G20 VCC_CLP MID N2992033 MID -1M
G_G21 VEE_CLP MID N2992029 MID -1M
G_G22 N2992299 MID N2992295 MID -1
G_G23 N2992323 MID N2992331 MID -1
G_G35 N3805330 MID N3898506 MID -1U
G_G36 N3294514 MID N3294512 MID -1U
G_G37 N3805288 MID N3805330 MID -16.67
G_G39 N3294626 MID CL_CLAMP N2992235 -89
G_G40 N3898496 MID VSENSE MID -1
G_G41 N3822072 MID N3294652 MID -1
G_G42 N3817523 MID N3822082 MID -2.61
G_G43 N3827249 MID MID MID -1
G_G44 N3837270 MID N3294776 MID -1
G_G45 N2991553 MID N3837278 MID -1.818
G_G48 N3850734 MID N3850724 MID -128.2
I_I_B N2991573 MID DC 50P
I_I_OS ESDN MID DC -90P
I_I_Q VCC VEE DC 0.85M
R_R_CM1 ESDP MID R_NOISELESS 1T 
R_R_CM2 MID ESDN R_NOISELESS 1T 
R_R_DIFF ESDN ESDP R_NOISELESS 100MEG 
R_R5 MID N3294772 R_NOISELESS 1 
R_R6 N3294776 N3294772 R_NOISELESS 100MEG 
R_R7 MID N3294776 R_NOISELESS 21 
R_R8 N2991563 N2991555 R_NOISELESS 1K 
R_R9 N2991579 N3294812 R_NOISELESS 100MEG 
R_R10 MID N3294812 R_NOISELESS 1 
R_R11 MID N2991579 R_NOISELESS 144M 
R_R15 N2991583 N2991563 R_NOISELESS 1M 
R_R16 N2991587 N2991583 R_NOISELESS 1K 
R_R17 N2991619 ESDN R_NOISELESS 1M 
R_R18 MID N2991623 R_NOISELESS 1T 
R_R19 MID N2991635 R_NOISELESS 1T 
R_R20 N2991643 MID R_NOISELESS 1 
R_R21 N2991657 N2991643 R_NOISELESS 1M 
R_R22 MID N2991667 R_NOISELESS 1MEG 
R_R23 MID CLAMP R_NOISELESS 1MEG 
R_R24 MID VSENSE R_NOISELESS 1K 
R_R32 MID CLAW_CLAMP R_NOISELESS 1K 
R_R33 MID CL_CLAMP R_NOISELESS 1K 
R_R34 N3294630 N3294626 R_NOISELESS 100K 
R_R35 MID N3294626 R_NOISELESS 1 
R_R36 MID N3294630 R_NOISELESS 1.74K 
R_R43 MID N3294682 R_NOISELESS 1 
R_R46 VCC_B 0 R_NOISELESS 1 
R_R47 VCC_B N2992397 R_NOISELESS 1M 
R_R48 N2992397 N2992375 R_NOISELESS 1MEG 
R_R49 N2992375 0 R_NOISELESS 1T 
R_R50 N2992375 N2992413 R_NOISELESS 1MEG 
R_R51 N2992413 VEE_B R_NOISELESS 1M 
R_R52 VEE_B 0 R_NOISELESS 1 
R_R53 VCC_CLP MID R_NOISELESS 1T 
R_R54 N2991729 MID R_NOISELESS 1 
R_R55 N2991741 N2991729 R_NOISELESS 1M 
R_R56 VEE_CLP MID R_NOISELESS 1T 
R_R57 N2991763 MID R_NOISELESS 1 
R_R58 N2991765 N2991763 R_NOISELESS 1M 
R_R59 N2991807 MID R_NOISELESS 1T 
R_R60 N2991809 MID R_NOISELESS 1 
R_R61 N2991811 N2991809 R_NOISELESS 1M 
R_R62 N2991831 N2991837 R_NOISELESS 1M 
R_R63 N2991849 MID R_NOISELESS 1T 
R_R64 N2991837 MID R_NOISELESS 1 
R_R65 N2991901 MID R_NOISELESS 1T 
R_R66 N2991905 MID R_NOISELESS 1 
R_R67 N2991907 N2991905 R_NOISELESS 1M 
R_R68 N2991925 N2991931 R_NOISELESS 1M 
R_R69 N2991943 MID R_NOISELESS 1T 
R_R70 N2991931 MID R_NOISELESS 1 
R_R71 N2991969 VSENSE R_NOISELESS 1M 
R_R72 VCC_B N2991997 R_NOISELESS 1K 
R_R73 N2991997 N2992033 R_NOISELESS 1M 
R_R74 N2992001 VEE_B R_NOISELESS 1K 
R_R75 N2992001 N2992029 R_NOISELESS 1M 
R_R76 MID VCC_CLP R_NOISELESS 1K 
R_R77 VEE_CLP MID R_NOISELESS 1K 
R_R78 N2992323 MID R_NOISELESS 1 
R_R79 N2992299 MID R_NOISELESS 1 
R_R80 V11 N2992093 R_NOISELESS 100 
R_R81 V12 N2992099 R_NOISELESS 100 
R_R82 N2992105 MID R_NOISELESS 1 
R_R83 N2992105 SW_OL R_NOISELESS 100 
R_R139 N3294652 N3201092 R_NOISELESS 56.2K 
R_R140 N3117073 N3294652 R_NOISELESS 10K 
R_R141 MID N3201092 R_NOISELESS 1 
R_R161 MID N3805330 R_NOISELESS 1MEG 
R_R162 MID N3294514 R_NOISELESS 1MEG 
R_R163 N3294512 N3805288 R_NOISELESS 10K 
R_R164 MID N3805288 R_NOISELESS 1 
R_R165 MID N3294512 R_NOISELESS 638.3 
R_R167 N3294618 VCLP R_NOISELESS 100 
R_R168 N3817533 N3817523 R_NOISELESS 10K 
R_R169 MID N3817523 R_NOISELESS 1 
R_R170 MID N3817533 R_NOISELESS 6.22K 
R_R171 N3822082 N3822072 R_NOISELESS 3.3K 
R_R172 N3822166 N3822082 R_NOISELESS 10K 
R_R173 MID N3822072 R_NOISELESS 1 
R_R174 N3898506 N3898496 R_NOISELESS 4.67K 
R_R175 N3898596 N3898506 R_NOISELESS 10K 
R_R176 MID N3827249 R_NOISELESS 1 
R_R177 MID N3898496 R_NOISELESS 1 
R_R178 N3828449 N3827249 R_NOISELESS 10K 
R_R179 MID N3828449 R_NOISELESS 1.282K 
R_R180 N3837278 N3837270 R_NOISELESS 10K 
R_R181 MID N3837270 R_NOISELESS 1 
R_R182 MID N3837278 R_NOISELESS 12.22K 
R_R183 MID N2991553 R_NOISELESS 1 
R_R187 N3850724 N3850714 R_NOISELESS 100MEG 
R_R188 N2991581 N3850734 R_NOISELESS 10K 
R_R189 MID N3850714 R_NOISELESS 1 
R_R190 MID N3850724 R_NOISELESS 76.92 
R_R191 MID N3850734 R_NOISELESS 1 
R_R192 MID N2991581 R_NOISELESS 78.61 
R_RDUMMY MID N2992235 R_NOISELESS 33K 
R_RS_INN IN- ESDN R_NOISELESS 10M 
R_RS_INP IN+ ESDP R_NOISELESS 10M 
R_RX N2992235 N3294682 R_NOISELESS 330K 
R_RX1 MID N2992151 R_NOISELESS 1T 
R_RX2 VIMON N2992151 R_NOISELESS 100 
R_RX3 MID N2992163 R_NOISELESS 1T 
R_RX4 VOUT_S N2992163 R_NOISELESS 100 
V_V_GRN N2991943 MID -280
V_V_GRP N2991901 MID 260
V_V_ISCN N2991849 MID -70.5
V_V_ISCP N2991807 MID 65
V_V_ORN N2992295 VCLP -10U
V_V_ORP N2992331 VCLP 10U
V_VCM_MAX N2991623 VCC_B -2.5
V_VCM_MIN N2991635 VEE_B -0.1
X_H1 N2992235 OUT N2992151 MID H1_OPAX182
X_H2 N2992287 N2992323 V12 MID H2_OPAX182
X_H3 N2992267 N2992299 V11 MID H3_OPAX182
X_S1 N2992267 CLAMP N2992267 CLAMP S1_OPAX182
X_S2 CLAMP N2992287 CLAMP N2992287 S2_OPAX182
X_U4 N2991555 N2991573 VOS_DRIFT_OPAX182 PARAMS: DC=2.69871E-7 POL=1 DRIFT=0.003E-6
X_U5 ESDN ESDP VCC VEE ESD_IN_OPAX182
X_U6 N2991587 MID N2991643 MID N2991623 N2991635 VCM_CLAMP_OPAX182 PARAMS: GAIN=1
X_U10 VCC_CLP VEE_CLP VOUT_S MID N2991729 N2991763 CLAMP_AMP_LO_OPAX182 PARAMS: G=1
X_U11 N2991807 N2991849 VIMON MID N2991809 N2991837 CLAMP_AMP_LO_OPAX182 PARAMS: G=1
X_U12 N2991901 N2991943 N2991969 MID N2991905 N2991931 CLAMP_AMP_HI_OPAX182 PARAMS: G=10
X_U16 MID N2992105 N2992093 N2992099 OL_SENSE_OPAX182
X_U18 VIMON MID N2991997 VCC_B CLAWP_OPAX182
X_U19 MID VIMON VEE_B N2992001 CLAWN_OPAX182
X_U21 OUT VCC VEE ESD_OUT_OPAX182
X_U22 N2991811 N2991831 CL_CLAMP MID CL_SRC_OPAX182 PARAMS: GAIN=1 IPOS=1.2 INEG=-1.2
X_U23 N2991907 N2991925 CLAMP MID GR_SRC_OPAX182 PARAMS: GAIN=1 IPOS=300 INEG=-300
X_U25 SW_OL MID N3294626 N3294630 SW_OL_OPAX182
X_U26 VIMON MID VCC MID IQ_SRC_OPAX182 PARAMS: GAIN=1E-3
X_U27 MID VIMON MID VEE IQ_SRC_OPAX182 PARAMS: GAIN=1E-3
X_U30 N2991657 N2991619 MID N2991667 AOL_1_OPAX182 PARAMS: GAIN=1E-4 IPOS=.5 INEG=-.5
X_U31 N2991667 MID MID CLAMP AOL_2_OPAX182 PARAMS: GAIN=3.37 IPOS=138.5 INEG=-138.5
X_U32 N3817533 MID MID N3294682 ZO_SRC_OPAX182 PARAMS: GAIN=1 IPOS=50E5 INEG=-55E5
X_U35 N2991741 N2991765 CLAW_CLAMP MID CLAW_SRC_OPAX182 PARAMS: GAIN=1 IPOS=600M INEG=-600M
X_U36 N2991573 MID FEMT_OPAX182 PARAMS: NVRF=166.57
X_U37 ESDN MID FEMT_OPAX182 PARAMS: NVRF=166.57
X_U40 ESDP N2991573 VNSE_OPAX182 PARAMS: NVR=5.755
.ENDS OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT AOL_1_OPAX182 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1E-4 IPOS=.5 INEG=-.5
****************************************
* Components
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS AOL_1_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT AOL_2_OPAX182 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=3.289 IPOS=125 INEG=-125
****************************************
* Components
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS AOL_2_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT CL_SRC_OPAX182 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=0.8E1 INEG=-0.8E1
****************************************
* Components
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS CL_SRC_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT CLAMP_AMP_HI_OPAX182 VC+ VC- VIN COM VO+ VO- PARAMS: G=10
****************************************
* Components
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
.ENDS CLAMP_AMP_HI_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT CLAMP_AMP_LO_OPAX182 VC+ VC- VIN COM VO+ VO- PARAMS: G=1
****************************************
* Components
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
.ENDS CLAMP_AMP_LO_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT CLAW_SRC_OPAX182 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=0.4E1 INEG=-0.4E1
****************************************
* Components
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS CLAW_SRC_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT CLAWN_OPAX182 VC+ VC- IOUT+ IOUT-
****************************************
* Components
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =(0, 1.00E-6)(12, 5.07E-4)(24, 1.09E-3)(36, 1.59E-3)(48, 2.26E-3)(60, 2.86E-3)(66,
+ 3.17E-3)(69.2, 3.36E-3)(70.5, 1.80E-2)
.ENDS CLAWN_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT CLAWP_OPAX182 VC+ VC- IOUT+ IOUT-
****************************************
* Components
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =(0, 1.00E-6)(12, 4.55E-4)(24, 1.08E-3)(33, 1.42E-3)(42, 1.96E-3)(51, 2.57E-3)(57,
+ 3.07E-3)(60, 3.42E-3)(63, 3.79E-3)(65, 1.80E-2)
.ENDS CLAWP_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT ESD_IN_OPAX182 ESDN ESDP VCC VEE
****************************************
* Models
.MODEL ESD_SW VSWITCH (RON=50 ROFF=1E12 VON=500E-3 VOFF=450E-3)
****************************************
* Components
S1 ESDN VCC ESDN VCC ESD_SW
S2 ESDP VCC ESDP VCC ESD_SW
S3 VEE ESDN VEE ESDN ESD_SW
S4 VEE ESDP VEE ESDP ESD_SW
.ENDS ESD_IN_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT ESD_OUT_OPAX182 OUT VCC VEE
****************************************
* Models
.MODEL ESD_SW VSWITCH (RON=50 ROFF=1E12 VON=500E-3 VOFF=450E-3)
****************************************
* Components
S1 OUT VCC OUT VCC ESD_SW
S2 VEE OUT VEE OUT ESD_SW
.ENDS ESD_OUT_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT FEMT_OPAX182 1 2 PARAMS: NVRF=166.57
****************************************
* Components
E1 3 0 5 0 10
G1 1 2 3 0 1E-6
R1 5 0 {1.184*PWR(NVRF,2)} 
R2 5 0 {1.184*PWR(NVRF,2)} 
.ENDS FEMT_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT GR_SRC_OPAX182 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=250E1 INEG=-250E1
****************************************
* Components
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS GR_SRC_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT IQ_SRC_OPAX182 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1E-3
****************************************
* Components
G1 IOUT+ IOUT- VALUE={IF((V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-))}
.ENDS IQ_SRC_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT OL_SENSE_OPAX182 COM SW+ OLN OLP
****************************************
* Components
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3|V(OLP,COM)>10E-3),1,0)}
.ENDS OL_SENSE_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT H1_OPAX182 1 2 3 4
****************************************
* Components
H_H1 3 4 VH_H1 1K
VH_H1 1 2 0V
.ENDS H1_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT H2_OPAX182 1 2 3 4
****************************************
* Components
H_H2 3 4 VH_H2 1
VH_H2 1 2 0V
.ENDS H2_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT H3_OPAX182 1 2 3 4
****************************************
* Components
H_H3 3 4 VH_H3 -1
VH_H3 1 2 0V
.ENDS H3_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT S1_OPAX182 1 2 3 4
****************************************
* Models
.MODEL _S1 VSWITCH (ROFF=1E12 RON=10M VOFF=0.0V VON=10MV)
****************************************
* Components
RS_S1 1 2 1G 
S_S1 3 4 1 2 _S1
.ENDS S1_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT S2_OPAX182 1 2 3 4
****************************************
* Models
.MODEL _S2 VSWITCH (ROFF=1E12 RON=10M VOFF=0.0V VON=10MV)
****************************************
* Components
RS_S2 1 2 1G 
S_S2 3 4 1 2 _S2
.ENDS S2_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT SW_OL_OPAX182 SW_OL_OPAX182 MID CAP_L CAP_R
****************************************
* Models
.MODEL OL_SW VSWITCH (RON=1E-3 ROFF=1E12 VON=900E-3 VOFF=800E-3)
****************************************
* Components
S1 CAP_L CAP_R SW_OL_OPAX182 MID OL_SW
.ENDS SW_OL_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT VCM_CLAMP_OPAX182 VIN+ VIN- IOUT- IOUT+ VP+ VP- PARAMS: GAIN=1
****************************************
* Components
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-),V(VP+,VIN-))}
.ENDS VCM_CLAMP_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT VNSE_OPAX182 1 2 PARAMS: NVR=5.755
****************************************
* Components
E3 1 2 5 0 10
R4 5 0 {1.184*PWR(NVR,2)} 
R5 5 0 {1.184*PWR(NVR,2)} 
.ENDS VNSE_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT VOS_DRIFT_OPAX182 VOS+ VOS- PARAMS: DC=2.69871E-7 POL=1 DRIFT=0.003E-06
****************************************
* Components
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS VOS_DRIFT_OPAX182
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT ZO_SRC_OPAX182 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=8.8 IPOS=30E5 INEG=-30E5
****************************************
* Components
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS ZO_SRC_OPAX182
************************************************************************************************************************

